US04125729
Methyl α-(4-chloro-3-methylphenoxy)-α-[p-(p-chlorophenoxy)phenyl]acetate
To a solution of 3.565 g of 4-chloro-3-methylphenol, 1.188 g of sodium methoxide and 50 mg of potassium iodide in 40 ml of methanol is added 7.11 g of methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate in 10 ml of benzene. The mixture is refluxed overnight and poured into 100 ml of water. The mixture is extracted with `× 75 ml of ether and the combined extracts are washed with 50 ml of 5% NaOH, 50 ml of water, 50 ml of saturated brine and dried (MgSO4). Evaporation of the solvent yields a yellow oil. Chromatography on 100 g of silica gel yields a colorless oil.

reactant | 4-chloro-3-methylphenol | 3.565 g | ClC1=C(C=C(C=C1)O)C | C7H7ClO
reactant | sodium methoxide | 1.188 g | C[O-].[Na+]
reactant | potassium iodide | 50 mg | [I-].[K+]
reactant | methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate | 7.11 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H12BrClO3
solvent | methanol | 40 ml | CO | CH4O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | water | 100 ml | O | H2O
product | Methyl α-(4-chloro-3-methylphenoxy)-α-[p-(p-chlorophenoxy)phenyl]acetate | ClC1=C(C=C(OC(C(=O)OC)C2=CC=C(C=C2)OC2=CC=C(C=C2)Cl)C=C1)C | C22H18Cl2O4
